US07338957B2
4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [3-(4-morpholin-4-yl-phenylcarbamoyl)-phenyl]-amide resin(50 mg, 0.05 mmol), prepared as in reference 1, in n-butanol (2 mL) is mixed with acetyl chloride (17.8 μL, 0.25 mmol) and 3-trifluoromethyl-aniline (31 μL, 0.25 mmol), or only mixed with HCl salt of 3-trifluoromethyl-aniline (50 mg, 0.25 mmol), and shaken at 80° C. for 24 hours. The resulting mixture is filtered and the resin is treated with TFA/CH2Cl2/H2O (45/50/5) (600 μL) for 30 minutes before filtering and washing with CH2Cl2 (3×2 mL), MeOH (3×2 mL). The washes are then combined together and concentrated. The residue is purified by preparative HPLC to give 4-(3-trifluoromethyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [3-(4-morpholin-4-yl-phenylcarbamoyl)-phenyl]-amide (19.0 mg, yield 64%). 1H NMR (400 MHz, DMSO-d6) δ 11.75 (s, 1H), 10.16 (s, 1H), 10.09 (s, 1H), 8.69 (s, 1H), 8.31 (s, 1H), 8.22 (d, J=8.3 Hz, 1H), 8.15 (s, 1H), 7.94 (d, J=8.2 Hz, 1H), 7.92 (d, J=3.9 Hz, 1H), 7.77 (d, J=7.7 Hz, 1H), 7.64 (d, J=8.8 Hz, 2H), 7.63 (d, J=6.9 Hz, 1H), 7.58 (t, J=8.0 Hz, 1H), 7.44 (d, J=7.7 Hz, 1H), 7.13 (d, J=4.0 Hz, 1H), 6.95 (d, J=9.0 Hz, 2H), 3.74 (t, J=4.6 Hz, 4H), 3.08 (t, J=4.7 Hz, 4H); ESIMS m/z 602.20 (M++1).

reactant | 4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [3-(4-morpholin-4-yl-phenylcarbamoyl)-phenyl]-amide | 0.05 mmol, 50 mg | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)N1C=CC2=C1N=CN=C2Cl | C24H21ClN6O3
reactant | acetyl chloride | 0.25 mmol, 17.8 μL | C(C)(=O)Cl | C2H3ClO
reactant | 3-trifluoromethyl-aniline | 0.25 mmol, 31 μL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | HCl | Cl | ClH
reactant | 3-trifluoromethyl-aniline | 0.25 mmol, 50 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(3-trifluoromethyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [3-(4-morpholin-4-yl-phenylcarbamoyl)-phenyl]-amide | 19.0 mg, yield 64% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)N1C=CC2=C1N=CN=C2NC2=CC(=CC=C2)C(F)(F)F | C31H26F3N7O3
